US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-5-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
A mixture of N-[6-(3-fluoro-5-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (130 mg, 0.364 mmol), reduced iron (150 mg), concentrated hydrochloric acid (300 μL), ethanol (3 mL) and water (3 mL) was stirred under refluxing conditions for 1 hr. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was dissolved in N,N-dimethylacetamide (3 mL). 1,3-Dimethyl-1H-pyrazole-5-carbonyl chloride (69.3 mg, 0.437 mmol) was added thereto with stirring under ice-cooling, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (NH silica gel, ethyl acetate) and recrystallized from ethyl acetate to give the title compound (45.0 mg, 28%) as a white solid.

reactant | N-[6-(3-fluoro-5-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.364 mmol, 130 mg | FC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=C(C1)[N+](=O)[O-] | C16H12FN5O4
reactant | hydrochloric acid | 300 μL | Cl | ClH
reactant | ethanol | 3 mL | C(C)O | C2H6O
reactant | 1,3-Dimethyl-1H-pyrazole-5-carbonyl chloride | 0.437 mmol, 69.3 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 3 mL | O | H2O
product | N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-5-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 45.0 mg, 28% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=C(C=C(C2)F)NC(=O)C2=CC(=NN2C)C)=N1 | C22H20FN7O3
